US07307076B2
a) 2-acetyl-4-benzyloxy-6-nitro-phenyl trifluoromethanesulphonate
92.7 mL (660 mmol) triethylamine are added to 90 g (313 mmol) 1-(5-benzyloxy-2-hydroxy-3-nitro-phenyl)-ethanone in 940 mL dichloromethane at −10° C. Then a solution of 65 mL (394 mmol) trifluoromethanesulphonic anhydride and 40 mL dichloromethane is slowly added dropwise. After 15 minutes stirring at −5° C. the reaction is stopped by the careful addition of 400 mL ammonium chloride solution and 400 mL sodium hydrogen carbonate solution. The organic phase is separated off, dried with sodium sulphate and evaporated down. The residue is dissolved in 150 mL diethyl ether and then precipitated by the addition of 800 mL hexane. The solid is filtered off, suspended in a diethyl ether/hexane mixture and suction filtered again.

reactant | triethylamine | 660 mmol, 92.7 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(5-benzyloxy-2-hydroxy-3-nitro-phenyl)-ethanone | 313 mmol, 90 g | C(C1=CC=CC=C1)OC=1C=C(C(=C(C1)C(C)=O)O)[N+](=O)[O-] | C15H13NO5
reactant | trifluoromethanesulphonic anhydride | 394 mmol, 65 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | ammonium chloride | 400 mL | [Cl-].[NH4+]
reactant | sodium hydrogen carbonate | 400 mL | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 940 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 2-acetyl-4-benzyloxy-6-nitro-phenyl trifluoromethanesulphonate | FC(S(=O)(=O)OC1=C(C=C(C=C1[N+](=O)[O-])OCC1=CC=CC=C1)C(C)=O)(F)F | C16H12F3NO7S
